US05051534
PREPARATION OF 4,8,13,17,21-PENTAMETHYL-4,8,12,16,20-DOCOSAPENTAEN-1OL CYCLOPROPYL ETHER
Diethyl zinc (0.606 ml, 1.0 M in hexane) was added to 4,8,13,17,21-pentamethyl-4,8,12,16,20-docosapentaen-1-ol vinyl ether (0.250 g, 0.606 mmol) in 6 ml ether under argon. Diiodomethane (0.240 g, 0.606 mmol, 73.3 μl), in 2 ml ether, was added dropwise over 0.5 hour. After stirring overnight at room temperature, the reaction was quenched with saturated ammonium chloride. An additional 40 ml of ether and 20 ml of saturated ammonium chloride were added and the layers separated. The ether layer was washed with brine and dried over magnesium sulfate. Removal of the solvent in vacuo yielded 0.32 g of crude product, which wasshown to be a 3:1 mixture by capillary gas chromatography of 4,8,13,17,21-pentamethyl-4,8,12,16,20-docosapentane-1-ol cyclopropyl etherand a dicyclopropyl compound.

reactant | Diethyl zinc | 1.0 M, 0.606 ml | C(C)[Zn]CC
reactant | 4,8,13,17,21-pentamethyl-4,8,12,16,20-docosapentaen-1-ol vinyl ether | 0.606 mmol, 0.250 g | C(=C)OCCCC(=CCCC(=CCCC=C(CCC=C(CCC=C(C)C)C)C)C)C | C29H48O
reactant | Diiodomethane | 0.606 mmol, 73.3 μl, 0.240 g | ICI | CH2I2
solvent | ether | 6 ml | CCOCC | C4H10O
solvent | ether | 2 ml | CCOCC | C4H10O
product | 4,8,13,17,21-PENTAMETHYL-4,8,12,16,20-DOCOSAPENTAEN-1OL CYCLOPROPYL ETHER | 0.32 g | C1(CC1)OCCCC(=CCCC(=CCCC=C(CCC=C(CCC=C(C)C)C)C)C)C | C30H50O
